US09334269B2
To a flask charged with tert-butyl 3-(1-hydroxyethyl)azetidine-1-carboxylate (212 mg, 1.053 mmol) was added THF (6.3 mL), resin bound PPh3 (527 mg, 1.580 mmol), p-chlorophenol (104 μL, 1.053 mmol) and DEAD (250 μL, 1.580 mmol). The reaction mixture was stirred overnight at RT. The reaction mixture was filtered through cotton and dried under reduced pressure, then purified with flash chromatography ramping CH2Cl2:MeOH:NH4OH (90:10:1) in CH2Cl2 from 0% to 100% to afford tert-butyl 3-(1-(4-chlorophenoxy)ethyl)-azetidine-1-carboxylate (145 mg, 44%) as a yellow oil.

reactant | tert-butyl 3-(1-hydroxyethyl)azetidine-1-carboxylate | 1.053 mmol, 212 mg | OC(C)C1CN(C1)C(=O)OC(C)(C)C | C10H19NO3
reactant | PPh3 | 1.580 mmol, 527 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | p-chlorophenol | 1.053 mmol, 104 μL | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | DEAD | 1.580 mmol, 250 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 6.3 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-(1-(4-chlorophenoxy)ethyl)-azetidine-1-carboxylate | 145 mg, 44% | ClC1=CC=C(OC(C)C2CN(C2)C(=O)OC(C)(C)C)C=C1 | C16H22ClNO3
